US04059433
In the manner of Example V A, 129.2 g of potassium tricyanomethanide and 1000 ml of isopropanol were treated with 65 ml (96 g) of methanesulfonic acid to yield 104 g of 3-amino-2-cyano-3-isopropoxy-2-propenenitrile, which was used as an intermediate without further purification. The ir spectrum was consistent with the assigned structure.

reactant | potassium tricyanomethanide | 129.2 g | C(#N)[C-](C#N)C#N.[K+]
reactant | methanesulfonic acid | 65 ml, 96 g | CS(=O)(=O)O | CH4O3S
reactant | isopropanol | 1000 ml | C(C)(C)O | C3H8O
product | 3-amino-2-cyano-3-isopropoxy-2-propenenitrile | 104 g | NC(=C(C#N)C#N)OC(C)C | C7H9N3O
